US09216999B2
1-[1-(Pyridin-3-ylmethyl)piperidin-4-yl]-7H-pyrrolo[3,2-e][1,2,3]triazolo[1,5-c]pyrimidine
1-(Piperidin-4-yl)-7H-pyrrolo[3,2-e][1,2,3]triazolo[1,5-c]pyrimidine (11.0 mg, 0.0450 mmol) in a mixture of methanol (1 mL) and tetrahydrofuran (1 mL) was stirred with 3-pyridinecarboxyaldehyde (5.0 μL, 0.054 mmol), acetic acid (33 μL) and sodium cyanoborohydride (4.3 mg, 0.068 mmol) at room temperature for one day. The reaction mixture was stirred with sodium triacetoxyborohydride (10.0 mg, 0.047 mmol) for another 2 hours. The resulting reaction mixture was purified by silica gel thin layer chromatography (methanol/chloroform=1/9 (v/v)) twice to give the title compound as a colorless solid (1.4 mg, yield 9.3%).

reactant | 1-(Piperidin-4-yl)-7H-pyrrolo[3,2-e][1,2,3]triazolo[1,5-c]pyrimidine | 0.0450 mmol, 11.0 mg | N1CCC(CC1)C=1N=NN2C=NC3=C(C21)C=CN3 | C12H14N6
reactant | acetic acid | 33 μL | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 0.068 mmol, 4.3 mg | C(#N)[BH3-].[Na+]
reactant | sodium triacetoxyborohydride | 0.047 mmol, 10.0 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | methanol | 1 mL | CO | CH4O
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | 1-[1-(Pyridin-3-ylmethyl)piperidin-4-yl]-7H-pyrrolo[3,2-e][1,2,3]triazolo[1,5-c]pyrimidine | 1.4 mg, yield 9.3% | N1=CC(=CC=C1)CN1CCC(CC1)C=1N=NN2C=NC3=C(C21)C=CN3 | C18H19N7
